US07598248B2
Step 2: (S)-6-bromo-1-(1-phenylethyl)-1H-imidazo[4,5-b]pyrazin-2-ol.
To a solution of (S)-6-bromo-N2-(1-phenylethyl)pyrazine-2,3-diamine (1.0 equiv) in refluxing anhydrous THF (5 volume equivalents) was added carbonyldiimidazole (CDI). Successive portions of CDI were added until the starting material was consumed (approx. 3.6 equiv total) as judged by TLC (50% EtOAc/Hexanes). After complete reaction, the mixture was cooled to room temperature and quenched by the careful addition of water until gas evolution had ceased. The mixture was diluted with 25 volume equivalents of EtOAc and washed with 3×7.5 volume equivalents of water and 1×7.5 volume equivalents of brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Flash chromatography (Biotage MPLC 5%-40% EtOAc/Hexanes) provided the title compound (66%) as a white solid. LCMS m/z (APCI)=319.0, 321.0 (M+H).

reactant | (S)-6-bromo-N2-(1-phenylethyl)pyrazine-2,3-diamine | 1.0 equiv | BrC1=CN=C(C(=N1)N[C@@H](C)C1=CC=CC=C1)N | C12H13BrN4
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | C1CCOC1 | C4H8O
product | (S)-6-bromo-1-(1-phenylethyl)-1H-imidazo[4,5-b]pyrazin-2-ol | 66% | BrC1=CN=C2C(=N1)N(C(=N2)O)[C@@H](C)C2=CC=CC=C2 | C13H11BrN4O
